US07824582B2
To a solution of 2-propyl-1-heptanol (0.81 g, 5.1 mmol) in dry CH2Cl2 (15 mL) was added dropwise a solution of trifluoromethanesufonic anhydride (1.77 g, 6.10 mmol) in the same solvent (5 mL). After stirring at room temperature for 20 min, the reaction mixture was poured into ice (40 mL) and neutralized with saturated aqueous NaHCO3 solution. The organic layer was separated, washed with water, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to yield nearly pure 2-propyl-1-heptyl triflate as a purple liquid (1.40 g, 94.1%). The 2-propyl-1-heptyl triflate (0.319 g, 1.10 mmol) was next added dropwise to a solution of 15 (0.275 g, 1.00 mmol) in dry CH2Cl2 (10 mL), and the reaction mixture was stirred at room temperature for 12 h. A solution of sodium methoxide in methanol (2.4 mL, 0.5 M) was then added dropwise to the resulting solution of pyridinium salt 17. The color of the mixture immediately changed from yellow to purple. After stirring at room temperature for 10 min, the solvent was removed under reduced pressure. The resulting purple solid was then partitioned between water (20 mL) and CH2Cl2 (20 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude product was next purified by flash chromatography on silica gel eluting with 4:100 methanol: CH2Cl2, to give 0.278 g (66.9%) of the title compound as an orange solid: mp 276-278° C.; 1H NMR (400 MHz, DMSO-d6): δ 8.969 (s, 2H), 6.591 (s, 2H), 4.421 (t, 2H, J=5.6 Hz), 2.114 (m, 1H), 2.067 (s, 6H), 1.704 (s, 6H), 1.229-1.190 (m, 12H), 0.836 (m, 6H); 13C NMR (125 MHz, DMSO-d6): δ 159.170, 142.273, 142.082, 137.669, 132.328, 125.659, 122.083, 117.561, 63.995, 38.500, 32.713, 31.339, 30.165, 27.600, 25.025, 21.849, 19.165, 18.846, 16.653, 14.188, 13.897; MS (high resolution, EI): m/z 415.2985 [M+]; calcd, 415.2987; Anal. Calcd. for C28H37N3·1/3 H2O: C, 79.76; H, 9.00; N, 9.97. Found; C, 79.92; H, 8.87; N, 9.97.

reactant | 2-propyl-1-heptanol | 5.1 mmol, 0.81 g | C(CC)C(CO)CCCCC | C10H22O
reactant | trifluoromethanesufonic anhydride | 6.10 mmol, 1.77 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-propyl-1-heptyl triflate | 1.40 g, 94.1% | O(S(=O)(=O)C(F)(F)F)CC(CCCCC)CCC | C11H21F3O3S
